US05621106
Synthesis of (1S,2R,8R,8aR)-1,2,8.triacetoxy-octahydro-5-oxyindolizine 14, from Methyl 2,4-di-O-acetyl-3,6-dideoxyphosphonoacetamido-alpha-D-mannopyranoside, 9. Methyl 2,4-di-O-acetyl-3,6-dideoxychloroacetamido-alpha-D-mannopyranoside, 8, 5 g (0.02 mole) and 20 mL triethylphoside were heated at 110° C. for 15 h. The solvent was removed at high vacuum and the residual oil stirred with 50 mL hexane and stored in the freezer for 2 h. The hexane was decanted to afford methyl 3,6-dideoxyphosphonoacetamido-alpha-D-mannopyranoside, 15, as a thick white oil. TLC analysis (SiO2 /CH2Cl12 -MeOH) indicated that the compound was a single spot with Rf of 0.7 staining with 12 . This compound was evaporated from MeOH, and dried at high vacuum.

reactant | Methyl 2,4-di-O-acetyl-3,6-dideoxyphosphonoacetamido-alpha-D-mannopyranoside | C(C)(=O)O[C@@H]1[C@@](OC)(O[C@@H]([C@H](C1)OC(C)=O)C)NC(CP(=O)(O)O)=O | C13H22NO10P
reactant | Methyl 2,4-di-O-acetyl-3,6-dideoxychloroacetamido-alpha-D-mannopyranoside | C(C)(=O)O[C@@H]1[C@@](OC)(O[C@@H]([C@H](C1)OC(C)=O)C)NC(CCl)=O | C13H20ClNO7
product | methyl 3,6-dideoxyphosphonoacetamido-alpha-D-mannopyranoside | P(=O)(O)(O)CC(=O)N[C@@]1(OC)[C@@H](O)C[C@H](O)[C@H](O1)C | C9H18NO8P
